* C:\Users\cpavlin1\git\docs\testing\inputcoupling\sim\inputcoupling.asc
R3 input source 50
V1 source 0 SINE(0 10 {freq}) AC 1
C4 N004 0 33p Rser=0.3 Lser=768p
C6 N003 0 22p Rser=0.3 Lser=952p
C5 N005 0 22p Rser=0.3 Lser=952p
V2 V+ 0 5
V3 V- 0 -5
R4 N005 0 50
R5 N003 N002 100
R7 N003 0 100
XU2 N010 0 N010 TL431A
R8 V+ N010 1k
D1 N007 N010 1N4148
XU3 0 N011 0 TL431A
R9 V- N011 1k
D2 N011 N007 1N4148
R10 N001 input 5.6
R11 input 0 499
L3 N001 N007 3.3µ Rser=1.3 Cpar=1.82p
R2 N001 N006 50
R1 N009 V- 22
R6 0 N008 1k
C1 N008 V- 100n
Q1 V+ N001 N002 0 BFR540
Q2 N002 N008 N009 0 BFR540
L5 N006 0 27n Rser=1.2 Cpar=290f
R12 N006 0 1.8
Q3 N008 N009 V- 0 2N3904
L1 N003 N004 27n Rser=1.2 Cpar=290f
L4 N004 N005 27n Rser=1.2 Cpar=290f
R13 N001 N007 150
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;ac dec 500 100 200Meg
* 22pF = C1608C0G1H220F080AA 1%
* 33pF = C1608C0G1H330F080AA 1%
* 27nH = ELJ-RF27NGFB 2%
.tran {30/freq}
.param freq 1k
.lib bipolar.lib
* 3.3uH = MLF1608A3R3KTA00
.lib TL431A.lib
.backanno
.end
